US07875647B2
To a solution of 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(3-(trimethylsilyl)prop-2-ynyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole (300 mg, 0.46 mmol) in tetrahydrofuran (5 ml) at 0° C. was added tetrabutylammonium fluoride (0.7 ml, 1.0 M in tetrahydrofuran, 0.7 mmol). After reaction mixture was warmed up to room temperature, it was stirred for 10 minutes. After the resulting solution was diluted with ether (20 ml), water was added (10 ml). Organic layer was separated with ethyl acetate (20 ml twice). After evaporation, crude residue was purified with silica gel column (hexane/ethyl acetate=7/1 to hexane/ethyl acetate 5/1). The less polar compound 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(propa-1,2-dienyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole was obtained as light yellow solid (87 mg, 34% yield). And relatively more polar compound 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(prop-2-ynyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole was produced as yellow solid (140 mg, 54% yield).

reactant | 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(3-(trimethylsilyl)prop-2-ynyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole | 0.46 mmol, 300 mg | C(C)(C)(C)C=1OC(=NN1)C1=NN(C(=C1CC#C[Si](C)(C)C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C27H27Cl3N4OSi
reactant | tetrabutylammonium fluoride | 0.7 mmol, 1.0 M, 0.7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(propa-1,2-dienyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole | C(C)(C)(C)C=1OC(=NN1)C1=NN(C(=C1C=C=C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C24H19Cl3N4O
